US06124354
1-Methyl-4-piperidinyl 1-phenylcyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-phenylcyclobutanecarbonyl chloride with 1-methyl-4-hydroxypiperidine at 80° C. for 20 h. The yield was 0.77 g (44%); mp 203-206° C.; 1H NMR (DMSO-d6, 1% TFA) δ 1.76 (d, 2H), 1.83 (m, 1H), 1.96 (m, 2H), 2.05 (t, 1H), 2.41-2.51 (m, 2H), 2.53-2.85 (m, 6H), 3.03 (q, 1H), 3.20 (d, 1H), 3.34 (d, 1H), 4.8 (m, 0.4H), 4.93 (m, 0.6H), 7.23-7.40 (m, 5H). Anal. (C17H23NO2.HCl) C, H. N. The compound exists in two forms in DMSO-TFA solution.

reactant | 1-phenylcyclobutanecarbonyl chloride | C1(=CC=CC=C1)C1(CCC1)C(=O)Cl | C11H11ClO
reactant | 1-methyl-4-hydroxypiperidine | CN1CCC(CC1)O | C6H13NO
solvent | DMSO TFA | CS(=O)C.C(=O)(C(F)(F)F)O
product | 1-Methyl-4-piperidinyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OC1CCN(CC1)C | InChI=1S/C17H23NO2.ClH/c1-18-12-8-15(9-13-18)20-16(19)17(10-5-11-17)14-6-3-2-4-7-14;/h2-4,6-7,15H,5,8-13H2,1H3;1H
